US05095013
(E)-3-[(2S,4S]-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N-methylacrylamide
The same operation as in Reference Example 4-1) was carried out by using (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine (the compound obtained in the Reference Example 3-1); 4.60 g, 10.0 mmol), dimethyl sulfoxide (1.99 ml, 28.0 mmol), oxalyl chloride (1.28 ml, 15.0 mmol), triethylamine (6.98 ml, 50.0 mmol), 2-(diethylphosphono)-N-methylacetamide (2.32 g, 11.0 mmol) and 60% sodium hydride (420 mg, 10.5 mmol), followed by flash column chromatographic purification on silica gel (Wakogel® C-300, 100 ml, elution with hexaneethyl acetate 1:2) to give the title compound (4.60 g, 89.7% yield).

reactant | (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C28H29NO3S
reactant | dimethyl sulfoxide | 28.0 mmol, 1.99 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 15.0 mmol, 1.28 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 50.0 mmol, 6.98 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(diethylphosphono)-N-methylacetamide | 11.0 mmol, 2.32 g | C(C)OP(=O)(OCC)CC(=O)NC | C7H16NO4P
reactant | sodium hydride | 10.5 mmol, 420 mg | [H-].[Na+]
product | (E)-3-[(2S,4S]-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N-methylacrylamide | 4.60 g, 89.7% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)NC | C31H32N2O3S
